US05962002
To a stirred solution of 2-hydroxy-naphthalene-1,4-dione (1.00 g, 5.7 mmol), 1-methylcyclohexanecarboxylic acid (1.22 g, 8.6 mmol) and silver nitrate (600 mg) in a mixture of acetonitrile (20 ml) and water (20 ml) at 65° C. was slowly added a solution of ammonium peroxysulphate (1.96 g, 8.6 mmol) in water (10 ml) over a period of 15 minutes. The mixture was heated for a further hour before cooling to room temperature (about 20° C.) and diluting with diethyl ether (50 ml). The organic phase was separated and washed successively with water, dilute aqueous sodium hydrogen carbonate solution, water and saturated sodium chloride solution before drying over magnesium sulphate. Filtration and evaporation of the solvent under reduced pressure followed by silica gel column chromatography using 2:1 petrol:diethyl ether as eluant gave 2-hydroxy-3-(1-methyl-cyclohexyl)naphthalene-1,4-dione (296 mg) as a yellow crystalline compound, m.pt.: 79° C.

reactant | 2-hydroxy-naphthalene-1,4-dione | 5.7 mmol, 1.00 g | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
reactant | 1-methylcyclohexanecarboxylic acid | 8.6 mmol, 1.22 g | CC1(CCCCC1)C(=O)O | C8H14O2
reactant | ammonium peroxysulphate | 8.6 mmol, 1.96 g | S(=O)(=O)([O-])O[O-].[NH4+].[NH4+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
catalyst | silver nitrate | 600 mg | [N+](=O)([O-])[O-].[Ag+]
product | 2-hydroxy-3-(1-methyl-cyclohexyl)naphthalene-1,4-dione | 296 mg | OC=1C(C2=CC=CC=C2C(C1C1(CCCCC1)C)=O)=O | C17H18O3
